US05972943
16-Methoxymethoxyhexadecanal
To a solution of 1.23 ml of oxalyl chloride in 60 ml of dichloromethane was added dropwise at -78 ° C. a solution of 2.0 ml of dimethyl sulfoxide in 2 ml of dichloromethane. After stirring for 10 minutes, a solution of 2.13 g of 16-methoxymethoxyhexadecanol in 30 ml of dichloromethane was added dropwise and the mixture was allowed to slowly rise up to -20° C. and then stirred for 15 minutes. 5.9 ml of triethylamine was added and the mixture was stirred at 0° C. for one hour. To the reaction solution was added a saturated aqueous solution of ammonium chloride and extracted with chloroform. The extract was dried over anhydrous sodium sulfate, distilled under reduced pressure and chromatographed over a silica gel column to afford the title compound as a colorless oily substance.

reactant | oxalyl chloride | 1.23 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 2.0 ml | CS(=O)C | C2H6OS
reactant | 16-methoxymethoxyhexadecanol | 2.13 g | COCOCCCCCCCCCCCCCCCCO | C18H38O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 5.9 ml | C(C)N(CC)CC | C6H15N
product | 16-Methoxymethoxyhexadecanal | COCOCCCCCCCCCCCCCCCC=O | C18H36O3
